US06150373
A solution of 10.3 g (49 mmol) of ethyl 3-nitrophenylacetate in 120 ml of ethanol was hydrogenated over 1 g of 10% palladium on charcoal for 6 hours. The mixture was filtered and the filtrate evaporated to give 9.3 g (100%) of ethyl 3-aminophenylacetate as a yellow oil. [NMR spectrum (250 MHz) δ1.19(t) (3H), δ3.48(s) (2H), δ4.16(q) (2H), δ7.48(dd) (1H), δ7.62(d) (1H), δ8.12(m) (2H)].

reactant | ethyl 3-nitrophenylacetate | 49 mmol, 10.3 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)OCC | C10H11NO4
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
product | ethyl 3-aminophenylacetate | 9.3 g, 100% | NC=1C=C(C=CC1)CC(=O)OCC | C10H13NO2
